US08981085B2
(R)-tert-Butyl piperidin-3-ylcarbamate (172 mg, 0.859 mmol) was added to N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylnicotinamide (100 mg, 0.286 mmol) in n-BuOH (3 mL), and the reaction was stirred at 160° C. for 24 hours in a sealed tube. The reaction was concentrated to dryness, and then the residue was purified by chromatography (SP4, 25M, water/ACN 90/10 to 10/90, 30CV) to yield (R)-tert-butyl 1-(5-bromo-3-(5-methylnicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate (47 mg, 31.0% yield) as a solid.

reactant | (R)-tert-Butyl piperidin-3-ylcarbamate | 0.859 mmol, 172 mg | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | N-(5-bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-5-methylnicotinamide | 0.286 mmol, 100 mg | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC(=C2)C)=O)F | C14H10BrFN4O
solvent | n-BuOH | 3 mL | CCCCO | C4H10O
product | (R)-tert-butyl 1-(5-bromo-3-(5-methylnicotinamido)-1H-pyrrolo[2,3-b]pyridin-4-yl)piperidin-3-ylcarbamate | 47 mg, 31.0% yield | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CN=CC(=C2)C)=O)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C24H29BrN6O3
